US04209613
0.56 g. (5 mmol) of uracil, 2.52 g. (5 mmol) of 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose were agitated in 75 ml. of absolute acetonitrile with 0.65 g. (4 mmol) of HMDS, 0.43 g. (4 mmol) of TCS, and 1.56 g. (6 mmol) of SnCl4 for 2 hours at 24° C. The mixture was worked up as set forth in Example 1, yielding 83.1% of crystalline uridine tribenzoate.

reactant | uracil | 5 mmol | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose | 5 mmol | C(C)(=O)O[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C28H24O9
reactant | HMDS | 4 mmol | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | SnCl4 | 6 mmol | Cl[Sn](Cl)(Cl)Cl
solvent | acetonitrile | C(C)#N | C2H3N
product | uridine tribenzoate | 83.1% | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C(=O)NC(=O)C=C1 | C30H24N2O9
